US04795812
To 1.5 g (7.3 mM) of 4-chloro-6-phenyl-2-pyrimidinamine is added 75 ml of glacial acetic acid. This mixture is stirred to dissolve and 0.44 ml of bromine is added. The reaction is stirred at ambient temperature for 24 hours. The solution is evaporated to dryness under vacuum to yield 1.75 g of 5-bromo-4-chloro-6-phenyl-2-pyrimidinamine.

reactant | 4-chloro-6-phenyl-2-pyrimidinamine | 7.3 mM, 1.5 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)N | C10H8ClN3
reactant | bromine | 0.44 ml | BrBr | Br2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 5-bromo-4-chloro-6-phenyl-2-pyrimidinamine | 1.75 g | BrC=1C(=NC(=NC1C1=CC=CC=C1)N)Cl | C10H7BrClN3
